US04339443
Monosodium monomethyl (1-oxobutyl)phosphonate
Dimethyl (1-oxobutyl)phosphonate (10.8 g, 0.06 mol) and sodium iodide (9.0 g, 0.06 mol) were dissolved in ethyl methyl ketone (160 ml) and the solution stirred and refluxed for 16 hours.

reactant | Dimethyl (1-oxobutyl)phosphonate | 0.06 mol, 10.8 g | O=C(CCC)P(OC)(OC)=O | C6H13O4P
reactant | sodium iodide | 0.06 mol, 9.0 g | [I-].[Na+]
solvent | ethyl methyl ketone | 160 ml | CC(=O)CC | C4H8O
product | Monosodium monomethyl (1-oxobutyl)phosphonate | O=C(CCC)P(OC)([O-])=O.[Na+] | InChI=1S/C5H11O4P.Na/c1-3-4-5(6)10(7,8)9-2;/h3-4H2,1-2H3,(H,7,8);/q;+1/p-1
